US06271225B1
In the same manner as in Starting Material Synthesis Example 19 and using methyl 2-(5-fluoro-2-nitroanilino)-5-methylbenzo[b]thiophene-3-carboxylate (4.42 g), ethyl acetate (400 ml), 100% palladium-carbon and hydrogen (400 mg, 60 atm kg/cm2), methyl 2-(2-amino-5-fluoroanilino)-5-methylbenzo[b]thiophene-3-carboxylate (1.82 g) was obtained.

reactant | methyl 2-(5-fluoro-2-nitroanilino)-5-methylbenzo[b]thiophene-3-carboxylate | 4.42 g | FC=1C=CC(=C(NC2=C(C3=C(S2)C=CC(=C3)C)C(=O)OC)C1)[N+](=O)[O-] | C17H13FN2O4S
reactant | hydrogen | 400 mg | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-amino-5-fluoroanilino)-5-methylbenzo[b]thiophene-3-carboxylate | 1.82 g | NC1=C(NC2=C(C3=C(S2)C=CC(=C3)C)C(=O)OC)C=C(C=C1)F | C17H15FN2O2S
